US07368578B2
To a solution of 2-ethyl-4-{(E)-2-[3-(methoxymethoxy)-1-(2-methylphenyl)-1H-pyrazol-4-yl]ethenyl}-1,3-thiazole (0.81 g) in methanol (20 mL) was added concentrated hydrochloric acid (0.42 mL) at room temperature, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was evaporated under reduced pressure, saturated aqueous sodium hydrogen carbonate was added to the residue, and the mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. Recrystallization of the residue from tetrahydrofuran-hexane gave 4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-(2-methylphenyl)-1H-pyrazol-3-ol (0.607 g, yield 86%) as colorless prism crystals. melting point: 174-176° C.

reactant | 2-ethyl-4-{(E)-2-[3-(methoxymethoxy)-1-(2-methylphenyl)-1H-pyrazol-4-yl]ethenyl}-1,3-thiazole | 0.81 g | C(C)C=1SC=C(N1)\C=C\C=1C(=NN(C1)C1=C(C=CC=C1)C)OCOC | C19H21N3O2S
reactant | hydrochloric acid | 0.42 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 4-[(E)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-(2-methylphenyl)-1H-pyrazol-3-ol | 0.607 g, yield 86% | C(C)C=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=C(C=CC=C1)C)O | C17H17N3OS
